US05093363
In 6.5 ml of anhydrous methylene chloride was dissolved 0.647 g (1.346 mmol) of tert-butyl [(4R,6S)-6-[[(3,5-di-tert-butyl-4-hydroxyphenyl)thio]methyl]-2,2-dimethyl-1,3-dioxane-4-yl]acetate. Thereto was added dropwise 1.3 ml of trifluoroacetic acid with cooling with ice and stirred for a half hour at the same temperature, further stirred for 2 hours at room temperature. The reaction solution was distilled away under reduced pressure. To the residue was added toluene, and again the mixture was distilled away under reduced pressure. After repeating such procedure twice, the obtained residue was purified by subjecting to silica gel column chromatography [eluent: acetonitrile-methylene chloride (1:9 to 1:4)]to give 0.396 g of (4R,6S)-6-[[(3,5-di-tert-butyl-4-hydroxyphenyl)thio]methyl]-4-hydroxytetrahydropyrane-2-one as crystals (yield: 83%). The desired compound was recrystallized from hexane.

reactant | tert-butyl [(4R,6S)-6-[[(3,5-di-tert-butyl-4-hydroxyphenyl)thio]methyl]-2,2-dimethyl-1,3-dioxane-4-yl]acetate | 1.346 mmol, 0.647 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC[C@@H]1C[C@@H](OC(O1)(C)C)CC(=O)OC(C)(C)C | C27H44O5S
reactant | trifluoroacetic acid | 1.3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | acetonitrile methylene chloride | C(C)#N.C(Cl)Cl
solvent | methylene chloride | 6.5 ml | C(Cl)Cl | CH2Cl2
product | (4R,6S)-6-[[(3,5-di-tert-butyl-4-hydroxyphenyl)thio]methyl]-4-hydroxytetrahydropyrane-2-one | 0.396 g, yield: 83% | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC[C@@H]1C[C@H](CC(O1)=O)O | C20H30O4S
